US07259266B2
Step 1. Preparation of ethyl 6-chloro-7-(4-ethynyl-2-methylphenoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a solution of 0.28 g (0.52 mmol) of ethyl 6-chloro-7-(2-methyl-4-iodophenoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate and 12 mg (0.0104 mmol) of tetrakistriphenylphosphine-palladium in 3.5 mL of anhydrous toluene was added 168 uL (0.586 mmol) of tributyl(ethynyl)tin. The resulting solution was heated to 110° C. and shaken for three hrs. LC-MS indicated that the reaction was complete. After cooling to room temperature, the reaction was quenched with addition of 20% aqueous ammonium fluoride. The product was extracted with ethyl acetate. The organic phase was separated and washed with brine, dried over anhydrous magnesium sulfate. After removing the volatiles, the residues were purified by silica gel chromatography with EtOAc/hexane (1:9). The product was carried on to the next step.

reactant | ethyl 6-chloro-7-(2-methyl-4-iodophenoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.52 mmol, 0.28 g | ClC=1C=C2C=C(C(OC2=CC1OC1=C(C=C(C=C1)I)C)C(F)(F)F)C(=O)OCC | C20H15ClF3IO4
reactant | tributyl(ethynyl)tin | 0.586 mmol, 168 uL | C(CCC)[Sn](C#C)(CCCC)CCCC
solvent | toluene | 3.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakistriphenylphosphine-palladium | 0.0104 mmol, 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 6-chloro-7-(4-ethynyl-2-methylphenoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C2C=C(C(OC2=CC1OC1=C(C=C(C=C1)C#C)C)C(F)(F)F)C(=O)OCC | C22H16ClF3O4
